US06946489B2
a) N-(2′-Methanesulfonylbiphenyl-4-yl)-2-[3-(5-methyl[1,2,4]oxadiazol-3-yl)phenoxy]2-phenylacetamide
A solution of 102 mg (0.330 mmol) of [3-(5-methyl[1,2,4)]oxadiazol-3-yl)phenoxy]-2-phenylacetic acid, 81.6 mg (0.330 mmol) of 2′-methanesulfonylbiphenyl-4-ylamine, 63.3 mg (0.330 mol) of N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (DAPECI) and 44.6 mg (0.330 mmol) of 1-hydroxybenzotriazole (HOBt) in 5 ml of DMF is treated with 0.036 ml (0.33 mmol) of 4-methylmorpholine and stirred at room temperature for 18 hours. The reaction mixture is added to water and the precipitate is filtered off. A colourless solid is obtained; FAB 540

reactant | 2-phenylacetic acid | C1(=CC=CC=C1)CC(=O)O | C8H8O2
reactant | 2′-methanesulfonylbiphenyl-4-ylamine | 0.330 mmol, 81.6 mg | CS(=O)(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)N | C13H13NO2S
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.330 mol, 63.3 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.330 mmol, 44.6 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 4-methylmorpholine | 0.33 mmol, 0.036 ml | CN1CCOCC1 | C5H11NO
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-(2′-Methanesulfonylbiphenyl-4-yl)-2-[3-(5-methyl[1,2,4]oxadiazol-3-yl)phenoxy]2-phenylacetamide | CS(=O)(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)NC(C(C1=CC=CC=C1)OC1=CC(=CC=C1)C1=NOC(=N1)C)=O | C30H25N3O5S
